### PR TITLE
[Merged by Bors] - feat: Equivalence between OnePoint K and projective line over field K

### PR DESCRIPTION
**Pull request by bjoernkjoshanssen**
Adding equivalence between OnePoint K and projective line over K, as discussed at https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/.E2.9C.94.20Projective.20extended.20real.20line/near/463620378
The [first PR for this](https://github.com/leanprover-community/mathlib4/pull/16152) became unable to automatically merge, so I am closing it and opening up this one.
(I do have a proof extending this to a homeomorphism for K = Real, but perhaps it is more disciplined to do the Equiv first?)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Compactification/OnePointEquiv.lean [hunk 1]
```diff
@@ -0,0 +1,166 @@
...
+It takes inputs from a field `K` and outputs a value in `K ∪ {∞}`, i.e.,  `OnePoint K`.
+We prove that `÷` preserves projective equivalence: `(c•a)÷(c•b)=a÷b`.
+Hence `÷` projects down to a map `divSlope` from `ℙ K (Fin 2 → K)` to `OnePoint K`
+that takes a line through the origin and returns its slope. For a vertical line
+the slope is `∞`.
+-/
+variable {K : Type*}
+/-- A modified division from a `DivisionRing` to its `OnePoint` extension. With notation `÷`
+for `divOnePoint`, we have in particular that `1 ÷ 0 = ∞`. -/
+noncomputable def divOnePoint [DivisionRing K] (a : K) (r : K): OnePoint K :=
```
Comment (riccardobrasca) [inline Mathlib/Topology/Compactification/OnePointEquiv.lean:49]: This works for any `K` with `[Zero K]  [Div K]` (not very interesting in general, but why not).

File: Mathlib/Topology/Compactification/OnePointEquiv.lean [hunk 2]
```diff
@@ -0,0 +1,166 @@
...
+noncomputable def divOnePoint' [DivisionRing K]
+  (u : {v : Fin 2 → K // v ≠ 0}) : OnePoint K :=
+  if u.1 1 ≠ 0 then some (u.1 0 / u.1 1) else ∞
+
+/-- Notation `÷` showing that `divOnePoint` is distinct from
+the ordinary division `/` of a `DivisionRing`. -/
+infix:50 " ÷ " => divOnePoint
+
+/-- `divOnePoint` can be lifted to the projective line (see `divSlope`.) -/
+lemma divOnePoint_lifts [Field K] (a b : {v : Fin 2 → K // v ≠ 0})
```
Comment (riccardobrasca) [inline Mathlib/Topology/Compactification/OnePointEquiv.lean:62]: Can you modify the statement without using `fun`, but having variables before the `:`? Also,

File: Mathlib/Topology/Compactification/OnePointEquiv.lean [hunk 3]
```diff
@@ -0,0 +1,166 @@
...
+    (h : ∃ c : Kˣ, (fun m : Kˣ ↦ m • b.1) c = a.1) :
+    (fun u ↦ u.1 0 ÷ u.1 1) a = (fun u ↦ u.1 0 ÷ u.1 1) b := by
+  obtain ⟨c,hc⟩ := h
+  simp_all only
```
Comment (riccardobrasca) [inline Mathlib/Topology/Compactification/OnePointEquiv.lean:66]: Nonterminal `simp`.

File: Mathlib/Topology/Compactification/OnePointEquiv.lean [hunk 4]
```diff
@@ -0,0 +1,166 @@
...
+  rw [← hc]
+  unfold divOnePoint; simp only [ne_eq, Fin.isValue, Pi.smul_apply, ite_not]
```
Comment (riccardobrasca) [inline Mathlib/Topology/Compactification/OnePointEquiv.lean:68]: Please try to avoid `unfold`. If you really need it, just write the corresponding `rfl` lemma (here I guess it is enough to put `divOnePoint` inside the `simp only` call).

File: Mathlib/Topology/Compactification/OnePointEquiv.lean [hunk 5]
```diff
@@ -0,0 +1,166 @@
...
+  split_ifs with hbc hb hb
+  · rfl
+  · simp_all only [ne_eq, OnePoint.infty_ne_coe]
+    exact hb <| (Units.mul_right_eq_zero c).mp hbc
+  · rw [hb] at hbc
+    simp at hbc
```
Comment (riccardobrasca) [inline Mathlib/Topology/Compactification/OnePointEquiv.lean:74]: Nonterminal `simp`.

File: Mathlib/Topology/Compactification/OnePointEquiv.lean [hunk 6]
```diff
@@ -0,0 +1,166 @@
...
+  · apply congrArg some
+    field_simp
+    show c * b.1 0 * b.1 1 = b.1 0 * (c * b.1 1)
```
Comment (riccardobrasca) [inline Mathlib/Topology/Compactification/OnePointEquiv.lean:77]: Can you replace the `show` with a `rw`?

File: Mathlib/Topology/Compactification/OnePointEquiv.lean [hunk 7]
```diff
@@ -0,0 +1,166 @@
...
+/-- Equivalence between the projective line and the one-point extension. -/
+noncomputable def divSlope [Field K] (p : ℙ K (Fin 2 → K)) : OnePoint K :=
+  Quotient.lift (fun u => divOnePoint (u.1 0) (u.1 1)) divOnePoint_lifts p
+
+/-! ### Equivalence
+We establish the equivalence between `OnePoint K` and `ℙ K (Fin 2 → K)` for a field `K`.
+-/
+
+/-- In a nonzero pair, if one coordinate is 0 then the other is nonzero. -/
+lemma not_both_zero [Zero K]
```
Comment (riccardobrasca) [inline Mathlib/Topology/Compactification/OnePointEquiv.lean:89]: Here `a` can be implicit. Also, the name should mention something like `snd` (and if we keep this we also want the other one).

File: Mathlib/Topology/Compactification/OnePointEquiv.lean [hunk 8]
```diff
@@ -0,0 +1,166 @@
...
+    (a : Fin 2 → K) (ha : a ≠ 0) (h : a 1 = 0) : a 0 ≠ 0 := by
+  intro hc; apply ha; ext s
```
Comment (riccardobrasca) [inline Mathlib/Topology/Compactification/OnePointEquiv.lean:91]: This proof seems a little bit over complicated. For example
```lean
lemma not_both_zero [Zero K]
    (a : Fin 2 → K) (ha : a ≠ 0) (h : a 1 = 0) : a 0 ≠ 0 :=
  fun H ↦ ha <| funext fun x ↦ by fin_cases x <;> simp [h, H]
```
works. Maybe this is even *too* golfed, but `fin_cases` is surely a good idea.

File: Mathlib/Topology/Compactification/OnePointEquiv.lean [hunk 9]
```diff
@@ -0,0 +1,166 @@
...
+  cases (Nat.le_one_iff_eq_zero_or_eq_one.mp (Fin.is_le s)) with
+  |inl hl => simp_all [Fin.eq_of_val_eq (j := 0) hl]
+  |inr hr => simp_all [Fin.eq_of_val_eq (j := 1) hr]
+
+instance [DivisionRing K] : Setoid ({v : Fin 2 → K // v ≠ 0}) :=
```
Comment (riccardobrasca) [inline Mathlib/Topology/Compactification/OnePointEquiv.lean:96]: I think it is better to make this instance `local`.

File: Mathlib/Topology/Compactification/OnePointEquiv.lean [hunk 10]
```diff
@@ -0,0 +1,166 @@
...
+  projectivizationSetoid K (Fin 2 → K)
+
+/-- `divSlope` respects projective equivalence. -/
+lemma divSlope_inj_lifted [Field K]
```
Comment (riccardobrasca) [inline Mathlib/Topology/Compactification/OnePointEquiv.lean:100]: We usually avoid implications in lemma statement (just write the assumption before the colon).

File: Mathlib/Topology/Compactification/OnePointEquiv.lean [hunk 11]
```diff
@@ -0,0 +1,166 @@
...
+    (a b : {v : Fin 2 → K // v ≠ 0}) :
+    divSlope ⟦a⟧ = divSlope ⟦b⟧ →
+    (⟦a⟧ : Quotient (projectivizationSetoid K (Fin 2 → K))) = ⟦b⟧ := by
+  unfold divSlope
```
Comment (riccardobrasca) [inline Mathlib/Topology/Compactification/OnePointEquiv.lean:104]: Instead of `unfold` please write a `rfl` lemma and rewrite it.

File: Mathlib/Topology/Compactification/OnePointEquiv.lean [hunk 12]
```diff
@@ -0,0 +1,166 @@
...
+  intro h
+  repeat rw [Quotient.lift_mk] at h
+  apply Quotient.sound
+  unfold divOnePoint at h
```
Comment (riccardobrasca) [inline Mathlib/Topology/Compactification/OnePointEquiv.lean:108]: Same.

File: Mathlib/Topology/Compactification/OnePointEquiv.lean [hunk 13]
```diff
@@ -0,0 +1,166 @@
...
+  split_ifs at h with g₀ g₁ g₂
+  · use Units.mk ((a.1 1) / (b.1 1)) ((b.1 1) / (a.1 1)) (by field_simp) (by field_simp)
+    ext s
+    cases (Nat.le_one_iff_eq_zero_or_eq_one.mp (Fin.is_le s)) with
```
Comment (riccardobrasca) [inline Mathlib/Topology/Compactification/OnePointEquiv.lean:112]: Can `fin_cases` simplify the proof?

**Review by riccardobrasca — COMMENTED** [review]
Can you use a little bit less `simp_all`? `simp only` is probably enough here.

File: Mathlib/Topology/Compactification/OnePointEquiv.lean (hunk 1 above)
Comment (bjoernkjoshanssen) [reply Mathlib/Topology/Compactification/OnePointEquiv.lean]: Thanks, fixed.

File: Mathlib/Topology/Compactification/OnePointEquiv.lean (hunk 2 above)
Comment (bjoernkjoshanssen) [reply Mathlib/Topology/Compactification/OnePointEquiv.lean:63]: Thanks, yes there was a superfluous function application which I've removed now.

File: Mathlib/Topology/Compactification/OnePointEquiv.lean (hunk 3 above)
Comment (bjoernkjoshanssen) [reply Mathlib/Topology/Compactification/OnePointEquiv.lean]: Fixed.

File: Mathlib/Topology/Compactification/OnePointEquiv.lean (hunk 4 above)
Comment (bjoernkjoshanssen) [reply Mathlib/Topology/Compactification/OnePointEquiv.lean]: Ah, I didn't know about putting the unfolding inside the `simp` call, thanks.

File: Mathlib/Topology/Compactification/OnePointEquiv.lean (hunk 5 above)
Comment (bjoernkjoshanssen) [reply Mathlib/Topology/Compactification/OnePointEquiv.lean:74]: This one seems to be terminal.

File: Mathlib/Topology/Compactification/OnePointEquiv.lean (hunk 6 above)
Comment (bjoernkjoshanssen) [reply Mathlib/Topology/Compactification/OnePointEquiv.lean]: Thanks, now I've changed `m` to `m.1` in the statement of the theorem to avoid having to write `show`.

File: Mathlib/Topology/Compactification/OnePointEquiv.lean (hunk 7 above)
Comment (bjoernkjoshanssen) [reply Mathlib/Topology/Compactification/OnePointEquiv.lean]: Good point, I've restructured that part of the file to make it simpler/more elegant.

File: Mathlib/Topology/Compactification/OnePointEquiv.lean (hunk 8 above)
Comment (bjoernkjoshanssen) [reply Mathlib/Topology/Compactification/OnePointEquiv.lean]: Great, I didn't know about `fin_cases` (and now I realize I could have used it many times in the past).

File: Mathlib/Topology/Compactification/OnePointEquiv.lean (hunk 9 above)
Comment (bjoernkjoshanssen) [reply Mathlib/Topology/Compactification/OnePointEquiv.lean]: Actually that instance is not needed so I just removed it.

File: Mathlib/Topology/Compactification/OnePointEquiv.lean (hunk 10 above)
Comment (bjoernkjoshanssen) [reply Mathlib/Topology/Compactification/OnePointEquiv.lean]: Thanks, fixed now.

File: Mathlib/Topology/Compactification/OnePointEquiv.lean (hunk 11 above)
Comment (bjoernkjoshanssen) [reply Mathlib/Topology/Compactification/OnePointEquiv.lean]: Fixed

File: Mathlib/Topology/Compactification/OnePointEquiv.lean (hunk 12 above)
Comment (bjoernkjoshanssen) [reply Mathlib/Topology/Compactification/OnePointEquiv.lean]: Fixed

File: Mathlib/Topology/Compactification/OnePointEquiv.lean (hunk 13 above)
Comment (bjoernkjoshanssen) [reply Mathlib/Topology/Compactification/OnePointEquiv.lean]: Yes! Done

File: Mathlib/Topology/Compactification/OnePointEquiv.lean [hunk 14]
```diff
@@ -0,0 +1,149 @@
...
+  (u : {v : Fin 2 → K // v ≠ 0}) : OnePoint K :=
+  if u.1 1 ≠ 0 then some (u.1 0 / u.1 1) else ∞
+
+/-- Notation `÷` showing that `divOnePoint` is distinct from
+ ordinary division `/`. -/
+infix:50 " ÷ " => divOnePoint
+
+/-- `divOnePoint` can be lifted to the projective line (see `divSlope`.) -/
+lemma divOnePoint_lifts [Field K] (a b : {v : Fin 2 → K // v ≠ 0})
+    (h : ∃ c : Kˣ, (fun m : Kˣ ↦ m.1 • b.1) c = a.1) :
```
Comment (riccardobrasca) [inline Mathlib/Topology/Compactification/OnePointEquiv.lean:64]: Can you state `h` using a `∀` instead of the function? It seems more natural.

File: Mathlib/Topology/Compactification/OnePointEquiv.lean [hunk 15]
```diff
@@ -0,0 +1,149 @@
...
+/-- Equivalence between the projective line and the one-point extension. -/
+noncomputable def divSlope [Field K] (p : ℙ K (Fin 2 → K)) : OnePoint K :=
+  Quotient.lift (fun u => divOnePoint (u.1 0) (u.1 1)) divOnePoint_lifts p
+
+/-! ### Equivalence
+We establish the equivalence between `OnePoint K` and `ℙ K (Fin 2 → K)` for a field `K`.
+-/
+
+/-- Extensionality for functions from `Fin 2`. -/
+lemma funext_fin2 {a b : Fin 2 → K} (h₀ : a 0 = b 0) (h₁ : a 1 = b 1) : a = b :=
```
Comment (riccardobrasca) [inline Mathlib/Topology/Compactification/OnePointEquiv.lean:88]: This can surely go in a much more basic file (note that `Fin` is defined before mathlib, but just find a mathlbi file that works)?

File: Mathlib/Topology/Compactification/OnePointEquiv.lean [hunk 16]
```diff
@@ -0,0 +1,149 @@
...
+  funext <| fun j => by fin_cases j <;> simp[h₀,h₁]
```
Comment (riccardobrasca) [inline Mathlib/Topology/Compactification/OnePointEquiv.lean:89]:
```suggestion
  funext <| fun j => by fin_cases j <;> simp [h₀,h₁]
```

File: Mathlib/Topology/Compactification/OnePointEquiv.lean [hunk 17]
```diff
@@ -0,0 +1,149 @@
...
+  · by_cases gb : b.1 1 = 0
+    · simp only [ne_eq, Decidable.not_not]
+      have h₀ : a.1 0 ≠ 0 := fun hc => False.elim <| a.2 <|funext_fin2 hc ga
+      have h₁ : b.1 0 ≠ 0 := fun hc => False.elim <| b.2 <|funext_fin2 hc gb
+      use Units.mk ((a.1 0) / (b.1 0)) ((b.1 0) / (a.1 0)) (by field_simp) (by field_simp)
+      apply List.ofFn_inj.mp
+      simp only [List.ofFn_succ, Pi.smul_apply, Fin.succ_zero_eq_one]
+      rw [ga, gb]
+      field_simp
+    · simp_all[divSlope, divOnePoint]
```
Comment (riccardobrasca) [inline Mathlib/Topology/Compactification/OnePointEquiv.lean:105]:
```suggestion
    · simp [divSlope, divOnePoint, ga, gb] at h
```

File: Mathlib/Topology/Compactification/OnePointEquiv.lean [hunk 18]
```diff
@@ -0,0 +1,149 @@
...
+  · by_cases gb : b.1 1 = 0
+    · simp_all[divSlope, divOnePoint]
```
Comment (riccardobrasca) [inline Mathlib/Topology/Compactification/OnePointEquiv.lean:107]:
```suggestion
    · simp [divSlope, divOnePoint, ga, gb] at h
```

File: Mathlib/Topology/Compactification/OnePointEquiv.lean [hunk 19]
```diff
@@ -0,0 +1,149 @@
...
+    · use Units.mk (a.1 1 / b.1 1) (b.1 1 / a.1 1) (by field_simp) (by field_simp)
+      ext s
+      fin_cases s
+      · simp_all only [divSlope, divOnePoint, ite_not, Quotient.lift_mk, smul_eq_mul]
```
Comment (riccardobrasca) [inline Mathlib/Topology/Compactification/OnePointEquiv.lean:111]:
```suggestion
      · simp only [divSlope, divOnePoint, ite_not, Quotient.lift_mk, smul_eq_mul, ga, gb] at h
```

File: Mathlib/Topology/Compactification/OnePointEquiv.lean [hunk 20]
```diff
@@ -0,0 +1,149 @@
...
+        have h' : a.1 0 / a.1 1 = b.1 0 / b.1 1 := Option.some_injective K h
+        field_simp at *
```
Comment (riccardobrasca) [inline Mathlib/Topology/Compactification/OnePointEquiv.lean:113]:
```suggestion
        field_simp  at h' ⊢
```

File: Mathlib/Topology/Compactification/OnePointEquiv.lean [hunk 21]
```diff
@@ -0,0 +1,149 @@
...
+        rw [h', mul_comm]
+      · simp_all
```
Comment (riccardobrasca) [inline Mathlib/Topology/Compactification/OnePointEquiv.lean:115]:
```suggestion
      · simp [h, ga, gb]
```

File: Mathlib/Topology/Compactification/OnePointEquiv.lean [hunk 22]
```diff
@@ -0,0 +1,149 @@
...
+  intro a
+  have g₀       : divOnePoint' ⟨![(1:K), 0], by simp⟩ =      ∞ := by simp[divOnePoint']
+  have g₁ (t:K) : divOnePoint' ⟨![    t, 1], by simp⟩ = some t := by simp[divOnePoint']
+  cases a with
+  |none => exact g₀
+  |some t => exact g₁ t
+
+/-- `divSlope` is surjective. -/
+lemma divSlope_surjective [Field K]:
+    Function.Surjective (@divSlope K _) :=
```
Comment (riccardobrasca) [inline Mathlib/Topology/Compactification/OnePointEquiv.lean:138]:
```suggestion
lemma divSlope_surjective [Field K] : Function.Surjective (@divSlope K _) :=
```

**Comment by riccardobrasca** [comment]
I've nothing against `simp_all`, but here it seems easy to replace it with standard `simp`, so I did it.

File: Mathlib/Topology/Compactification/OnePointEquiv.lean [hunk 23]
```diff
@@ -0,0 +1,149 @@
...
+
+/-!
+# One-point compactification and projectivization
+
+We construct a set-theoretic equivalence between
+`OnePoint K` and the projectivization `ℙ K (Fin 2 → K)` for an arbitrary field `K`.
+
+(This equivalence can be extended to a homeomorphism
+in the case `K = ℝ`, where `OnePoint ℝ` gets the topology of one-point compactification.
+This result is to be added in a different file.)
```
[the remark this answers is not in the document]
Comment (bjoernkjoshanssen) [reply Mathlib/Topology/Compactification/OnePointEquiv.lean:17]: OK, I wrote "TODO:" there.

File: Mathlib/Topology/Compactification/OnePointEquiv.lean (hunk 14 above)
Comment (bjoernkjoshanssen) [reply Mathlib/Topology/Compactification/OnePointEquiv.lean:64]: Actually it can be simply `c • b.1 = a.1`; anyway, thanks for noticing that something was off there.

File: Mathlib/Topology/Compactification/OnePointEquiv.lean (hunk 15 above)
Comment (bjoernkjoshanssen) [reply Mathlib/Topology/Compactification/OnePointEquiv.lean:88]: Hmm... is it okay to just incorporate the proof `funext fun j => by fin_cases j <;> simp[hc,ga]` where the lemma is used, like this?
```
      have : a.1 0 ≠ 0 := fun hc => .elim <|a.2 <|funext fun j => by fin_cases j <;> simp[hc,ga]
      have : b.1 0 ≠ 0 := fun hc => .elim <|b.2 <|funext fun j => by fin_cases j <;> simp[hc,gb]
```

File: Mathlib/Topology/Compactification/OnePointEquiv.lean (hunk 22 above)
Comment (bjoernkjoshanssen) [reply Mathlib/Topology/Compactification/OnePointEquiv.lean:138]: Sure

**Comment by ocfnash** [comment]
Thanks for doing this, I'm happy this work is on its way to Mathlib 🎉

 I'm afraid I won't have time to have a close look until the weekend. For now I just have some passing comments:

1.  The way I think about this is that if $V$ is a vector space then a choice of codimension-one affine subspace $H$ which does not contain the origin induces a bijection $ℙV \equiv H ⊔ ℙH$ (according to whether a line in $V$ meets $H$ or not). In the case that $V$ is two-dimensional, this means $H$ is one-dimensional and so $H$ is a line and $ℙH$ is a point. I can't help wondering if we might be able to simplify some of the proofs here by factoring them through this more abstract approach.
2. Notwithstanding the above, I admit it is may be worth giving special attention to situation (currently proposed) where $V $is the plane and $H$ is the horizontal line through $(0, 1)$.
3. It looks like some of the results require `Field K` where `DivisionRing K` should work? This is not just Mathlib silliness: I think it is important that we can cover the case of the quaternionic projective line.

Anyway as I say, I'll return at the weekend and give do some proper feedback, and in the meantime, thanks again.

**Comment by bjoernkjoshanssen** [comment]
Thanks @ocfnash for the encouragement! I'm a bit tied up now but looking forward to thinking more about this.

File: Mathlib/Topology/Compactification/OnePointEquiv.lean [hunk 24]
```diff
@@ -0,0 +1,144 @@
...
+Hence `÷` projects down to a map `divSlope` from `ℙ K (Fin 2 → K)` to `OnePoint K`
+that takes a line through the origin and returns its slope. For a vertical line
+the slope is `∞`.
+-/
+variable {K : Type*}
+/-- A modified division from a structure with `Zero` and `Div` to its
+ `OnePoint` extension. With notation `÷` for `divOnePoint`,
+  we have in particular that `1 ÷ 0 = ∞`. -/
+noncomputable def divOnePoint [Zero K] [Div K] (a : K) (r : K): OnePoint K :=
+  if r ≠ 0 then a / r else ∞
```
Comment (ocfnash) [inline Mathlib/Topology/Compactification/OnePointEquiv.lean:51]: If we want this setup to work in the non-commutative setting (i.e., for `[DivisionRing K]` instead of `[Field K]`) then this should be:
```suggestion
noncomputable def divOnePoint [Zero K] [Inv K] [Mul K] (a : K) (r : K) : OnePoint K :=
  if r ≠ 0 then r⁻¹ * a else ∞
```

**Review by ocfnash — COMMENTED** [review]
I think we need to make sure this works for division rings. I've had a quick look and suggested what I think is the appropriate modification.

File: Mathlib/Topology/Compactification/OnePointEquiv.lean (hunk 24 above)
Comment (bjoernkjoshanssen) [reply Mathlib/Topology/Compactification/OnePointEquiv.lean:51]: Does `divSlope_inj_lifted` hold for division rings? My proof doesn't seem to go through in that generality since it reduces to '(a.1 1)⁻¹ * a.1 0 = (b.1 1)⁻¹ * b.1 0` implying `(b.1 1)⁻¹ * a.1 1 * b.1 0 = a.1 0`.

**Comment by bjoernkjoshanssen** [comment]
@ocfnash Does it look okay now? Generalizing to division rings worked out nicely so thanks for suggesting that.
Regarding your comment (1) above, $ℙV \simeq H ⊔ ℙH$, what is the bijection you have in mind?

File: Mathlib/Topology/Compactification/OnePointEquiv.lean [hunk 25]
```diff
@@ -0,0 +1,155 @@
...
+lemma divSlope_inv [DivisionRing K] : Function.LeftInverse (@divSlope K _) slope_inv := by
+  intro a
+  have g₀       : divOnePoint' ⟨![(1:K), 0], by simp⟩ =      ∞ := by simp [divOnePoint']
+  have g₁ (t:K) : divOnePoint' ⟨![    t, 1], by simp⟩ = some t := by simp [divOnePoint']
+  cases a with
+  |none => exact g₀
+  |some t => exact g₁ t
+
+/-- `divSlope` is surjective. -/
+lemma divSlope_surjective [DivisionRing K] : Function.Surjective (@divSlope K _) :=
```
Comment (riccardobrasca) [inline Mathlib/Topology/Compactification/OnePointEquiv.lean:144]: Maybe this can be removed? I guess the point is to use the equivalence rather than the bare function.

**Review by riccardobrasca — APPROVED** [review]
LGTM, thanks!

File: Mathlib/Topology/Compactification/OnePointEquiv.lean (hunk 25 above)
Comment (bjoernkjoshanssen) [reply Mathlib/Topology/Compactification/OnePointEquiv.lean]: Good idea... done

**Comment by ocfnash** [comment]
Sorry I've been so slow getting back to this, I'll try hard to prioritise it tomorrow evening.

> Does it look okay now?

It looks good but I there are a few points I'd like to address. E.g., I think there is a moderate amount of room for golfing. I also note that various definitions like `divOnePoint` and `divOnePoint'` are really just implementation details en route to `divSlope_equiv` so shouldn't really be exposed. Also everything is in the root namespace and the notation `÷` is global 😱 

> Generalizing to division rings worked out nicely so thanks for suggesting that.

Great, thanks for taking up the suggestion!

> Regarding your comment (1) above, ℙ V ≃ H ⊔ ℙ H , what is the bijection you have in mind?

I think we can live without this, but since you mentioned it, I was trying to sketch the bijection with the remark "according to whether a line in V meets H or not". The idea is that if `H` is a codimension-one affine plane (with distinguished point acting as origin) inside `V`, then the lines in `V` (i.e., the points of `ℙ V`) fall into two classes: those that intersect `H` and those that do not (i.e., they're parallel to `H`). Each line in the first class is uniquely determined by its point of intersection with `H` and so we can identify this subset of `ℙ V` with `H`. The lines in the second class each uniquely determine a line in `H` by translating the origin of `V` to the distinguished point of `H`. So we can identify these parallel lines with lines in `H`, i.e., with `ℙ H`. So that's the bijection (and the inductive construction of projective space).

**Comment by bjoernkjoshanssen** [comment]
> It looks good but I there are a few points I'd like to address. E.g., I think there is a moderate amount of room for golfing. I also note that various definitions like `divOnePoint` and `divOnePoint'` are really just implementation details en route to `divSlope_equiv` so shouldn't really be exposed. Also everything is in the root namespace and the notation `÷` is global 😱
> 

Sorry about that, I've put everything except `divSlope_equiv` in a namespace `OnePointEquiv` now. I don't know if that's the proper way.

> > Regarding your comment (1) above, ℙ V ≃ H ⊔ ℙ H , what is the bijection you have in mind?
> 
> I think we can live without this, but since you mentioned it, I was trying to sketch the bijection with the remark "according to whether a line in V meets H or not". The idea is that if `H` is a codimension-one affine plane (with distinguished point acting as origin) inside `V`, then the lines in `V` (i.e., the points of `ℙ V`) fall into two classes: those that intersect `H` and those that do not (i.e., they're parallel to `H`). Each line in the first class is uniquely determined by its point of intersection with `H` and so we can identify this subset of `ℙ V` with `H`. The lines in the second class each uniquely determine a line in `H` by translating the origin of `V` to the distinguished point of `H`. So we can identify these parallel lines with lines in `H`, i.e., with `ℙ H`. So that's the bijection (and the inductive construction of projective space).

Ah okay, I see the picture now.
It would be nice to eventually add a proof that `divSlope` is a homeomorphism in the case of ℝ.
I have completed and formalized such a proof, although I wouldn't say it's Mathlib-level yet.
So, one question is whether your map also is a homeomorphism.

**Review by ocfnash — CHANGES_REQUESTED** [review]
Thank you very much for taking this up. I have finally had time to take a close look.

Even though this is very nice work, I have quite a few suggestions. Some of these are just aspects of Mathlib style that there is no way to know in advance. Some detailed high-level remarks are as follows:
 1. Using `open Classical` is almost always undesirable, and is undesirable here. We should use `[DecidableEq K]` instead here. (I will omit the detailed explanation for now, but can provide it upon request.)
 2. Almost all the definitions / lemmas are auxiliary to the main construction with no value once you have `divSlope_equiv`. If possible we should thus avoid creating them.
 3. I think we should use `K × K` instead of `Fin 2 → K` because this is more convenient and the result does not generalise beyond dimension two (more precisely it generalises in a different direction: to spheres, rather than projective spaces).
 4. When authoring a new definition like `divSlope_equiv` we should almost always create API that defines its behaviour so that downstream users do not have to unfold its definition.
 5. The lemma `rev_div_assoc` is not necessary but would have had to go in a different file if it were --- we always try to group lemmas in the most appropriate file.
 6. We should not create a global notation `÷` for this very specific situation, especially as it is really just an implementation detail en route to `divSlope_equiv`.
 7. The name `divSlope_equiv` should be camelCase and is too opaque for global namespace.
 8. Part of the reason you have to work so hard here is that the `Projectivization` definition is missing some API. There should be a `Projectivization.lift` definition to help for situations like this.

etc.

With all of the above in mind, I propose that you add the following to `LinearAlgebra.Projectivization.Basic` (maybe just above the definition `protected noncomputable def rep`):
```lean
/-- A function on non-zero vectors which is independent of scale, descends to a function on the
projectivization. -/
protected def lift {α : Type*} (f : { v : V // v ≠ 0 } → α)
    (hf : ∀ (a b : { v : V // v ≠ 0 }) (t : K), a = t • (b : V) → f a = f b)
    (x : ℙ K V) : α :=
  Quotient.lift f (by rintro ⟨-, hv⟩ ⟨w, hw⟩ ⟨⟨t, -⟩, rfl⟩; exact hf ⟨_, hv⟩ ⟨w, hw⟩ t rfl) x

@[simp]
protected lemma lift_mk {α : Type*} (f : { v : V // v ≠ 0 } → α)
    (hf : ∀ (a b : { v : V // v ≠ 0 }) (t : K), a = t • (b : V) → f a = f b)
    (v : V) (hv : v ≠ 0) :
    Projectivization.lift f hf (mk K v hv) = f ⟨v, hv⟩ :=
  rfl
```
and then using that the entire contents of your file can be replaced with:
```lean
open scoped LinearAlgebra.Projectivization OnePoint
open Projectivization

namespace OnePoint

variable (K : Type*) [DivisionRing K] [DecidableEq K]

def equivProjectivization :
    OnePoint K ≃ ℙ K (K × K) where
  toFun p := Option.elim p (mk K (1, 0) (by simp)) (fun t ↦ mk K (t, 1) (by simp))
  invFun p := by
    refine Projectivization.lift
      (fun u : {v : K × K // v ≠ 0} ↦ if u.1.2 ≠ 0 then ((u.1.2)⁻¹ * u.1.1) else ∞) ?_ p
    rintro ⟨-, hv⟩ ⟨⟨x, y⟩, hw⟩ t rfl
    have ht : t ≠ 0 := by rintro rfl; simp at hv
    by_cases h₀ : y = 0 <;> simp [h₀, ht, mul_assoc]
  left_inv p := by cases p <;> simp [OnePoint.infty, OnePoint.some]
  right_inv p := by
    induction' p using ind with p hp
    obtain ⟨x, y⟩ := p
    by_cases h₀ : y = 0 <;>
    simp only [Option.elim, ite_not, Projectivization.lift_mk, h₀, mk_eq_mk_iff]
    · have h₀' : x ≠ 0 := by aesop
      exact ⟨Units.mk0 _ (inv_ne_zero h₀'), by simp [h₀']⟩
    · exact ⟨Units.mk0 _ (inv_ne_zero h₀), by simp [h₀]⟩

@[simp]
lemma equivProjectivization_apply_infinity :
    equivProjectivization K ∞ = mk K ⟨1, 0⟩ (by simp) :=
  rfl

@[simp]
lemma equivProjectivization_apply_coe (t : K) :
    equivProjectivization K t = mk K ⟨t, 1⟩ (by simp) :=
  rfl

@[simp]
lemma equivProjectivization_symm_apply_mk (x y : K) (h : (x, y) ≠ 0) :
    (equivProjectivization K).symm (mk K ⟨x, y⟩ h) = if y = 0 then ∞ else y⁻¹ * x := by
  simp [equivProjectivization]

end OnePoint
```

Thank you again for this work. I look forward to the follow up proving we have a homeomorphism.

**Comment by ocfnash** [comment]
> one question is whether your map also is a homeomorphism.

Just to answer this question from [here](https://github.com/leanprover-community/mathlib4/pull/17266#issuecomment-2430525234): yes, the map I describe is a homeomorphism. In fact it's the same map if you take `H` to be the horizontal line through `(0, 1)`.

**Comment by bjoernkjoshanssen** [comment]
> 
> Thank you again for this work. I look forward to the follow up proving we have a homeomorphism.

Thanks for the rewrite! Yes I look forward to submitting a follow-up although my proof there is quite tedious :)

File: Mathlib/Topology/Compactification/OnePointEquiv.lean [hunk 26]
```diff
@@ -0,0 +1,70 @@
...
+We construct a set-theoretic equivalence between
+`OnePoint K` and the projectivization `ℙ K (K × K)` for an arbitrary division ring `K`.
+
+TODO: Add the extension of this equivalence to a homeomorphism in the case `K = ℝ`,
+where `OnePoint ℝ` gets the topology of one-point compactification.
+
+
+## Main definitions and results
+
+* `equivProjectivization` : the equivalence `OnePoint K ≃ ℙ K (K × K)`.
```
Comment (ocfnash) [inline Mathlib/Topology/Compactification/OnePointEquiv.lean:21]: Fully qualifying names in doc comments makes links work in our [HTML docs](https://leanprover-community.github.io/mathlib4_docs/)
```suggestion
* `OnePoint.equivProjectivization` : the equivalence `OnePoint K ≃ ℙ K (K × K)`.
```

**Review by ocfnash — APPROVED** [review]

**Comment by ocfnash** [comment]
> > Thank you again for this work. I look forward to the follow up proving we have a homeomorphism.
> 
> Thanks for the rewrite! Yes I look forward to submitting a follow-up although my proof there is quite tedious :)

It looks like the proof that projective space is compact is missing. I think if you first add this then you should be able to prove the map is a homeomorphism by using the universal property of one-point compactification.

I'm happy with this now but because I ended up writing quite a lot of this I'll have to ask another maintainer to review instead of merging it myself.

Thanks again!

**Comment by riccardobrasca** [comment]
LGTM, thanks!

bors merge

**Comment by riccardobrasca** [comment]
Can you please merge master, fix the error and merge it? Thanks!

bors d+

**Comment by riccardobrasca** [comment]
You have to merge master (and fix the error) before merging it.

**Comment by bjoernkjoshanssen** [comment]
> You have to merge master (and fix the error) before merging it.

Oops, sorry. There's no red "merge conflict" tag and everything looks fine in VSCode, so I don't know what's causing the error. What exactly do you mean by "merge master"?

**Comment by riccardobrasca** [comment]
Something changed in mathlib since the moment you opened the PR, and now your proofs don't work anymore, so you have to update mathlib (by merging `origin/master` to your branch, I just did it). It is nothing strange, it happens all the time. Most likely it is just a lemma that changed name or something like that.

**Comment by riccardobrasca** [comment]
I've fixed the error, when it's green you can merge it.

**Comment by bjoernkjoshanssen** [comment]
> I've fixed the error, when it's green you can merge it.

Thanks!
I was thinking of doing `git pull origin master` in my local copy, but I'm not sure if that's equivalent to merging `master` into `origin/bjoernkjoshanssen_onepoint`.

**Comment by riccardobrasca** [comment]
> > I've fixed the error, when it's green you can merge it.
> 
> Thanks! I was thinking of doing `git pull origin master` in my local copy, but I'm not sure if that's equivalent to merging `master` into `origin/bjoernkjoshanssen_onepoint`.

It's `git fetch` (or equivalent, to get the laster master) and then `git merge origin/master`

**Comment by bjoernkjoshanssen** [comment]
> 
> It looks like the proof that projective space is compact is missing. I think if you first add this then you should be able to prove the map is a homeomorphism by using the universal property of one-point compactification.
> 

I just was reminded that my proof does include:
`instance {n:ℕ} : CompactSpace (ℙ ℝ (Fin n → ℝ))`
But I'm just using it to be able to invoke `Continuous.homeoOfEquivCompactToT2`.
Is this universal property you allude to in Mathlib already?

**Comment by ocfnash** [comment]
> > It looks like the proof that projective space is compact is missing. I think if you first add this then you should be able to prove the map is a homeomorphism by using the universal property of one-point compactification.
> 
> I just was reminded that my proof does include: `instance {n:ℕ} : CompactSpace (ℙ ℝ (Fin n → ℝ))` But I'm just using it to be able to invoke `Continuous.homeoOfEquivCompactToT2`. Is this universal property you allude to in Mathlib already?

`Continuous.homeoOfEquivCompactToT2` is certainly relevant but it's not what I had in mind. I decided to write a reply [on Zulip](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Projective.20extended.20real.20line/near/479252033) for greater visibility. Hopefully I got it correct!
